US07666878B2
1-Bromomethyl-4-(propane-2-sulfonyl)-benzene
The titled compound is prepared analogously to 4-bromomethyl-2-fluoro-1-methanesulfonyl-benzene by replacing 3,4-difluorobenzaldehyde with 4-fluorobenzaldehyde and by replacing methane sulfinic acid sodium salt with 2-propane sulfinic acid sodium salt.

reactant | 4-bromomethyl-2-fluoro-1-methanesulfonyl-benzene | BrCC1=CC(=C(C=C1)S(=O)(=O)C)F | C8H8BrFO2S
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2-propane sulfinic acid sodium salt | [Na+].CC(C)S(=O)[O-]
product | 1-Bromomethyl-4-(propane-2-sulfonyl)-benzene | BrCC1=CC=C(C=C1)S(=O)(=O)C(C)C | C10H13BrO2S
